US08802661B2
Preparation of (1S,3aS,5aR,5bR,7aR,11aR,13aR,13bR)-benzyl 1-isopropyl-5a,5b,8,8,11a-pentamethyl-9-(trifluoromethylsulfonyloxy)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylate. Intermediate 32
To (1S,3aS,5aR,5bR,7aR,11aR,13aR,13bR)-benzyl 1-isopropyl-5a,5b,8,8,11a-pentamethyl-9-oxoicosahydro-1H-cyclopenta[a]chrysene-3a-carboxylate (3.05 g, 5.58 mmol) in THF (100 mL) at −78° C. was added KHMDS (22.31 mL, 11.16 mmol), the reaction mixture was stirred for 15 minutes at −78° C. then 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide (2.192 g, 6.14 mmol) in THF (15 mL) and toluene (5 mL) was added slowly through 20 minutes at −78° C. The reaction mixture was stirred for 2 hours at that temperature. TLC indicated the formation of desired product. The reaction mixture was quenched with water (100 mL), extracted with ethyl acetate (3×50 mL). The extracts were dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by biotage with 0-6% ethyl acetate/hexanes to provide the title compound as a white solid (3.5 g, 92%). 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 7.42-7.28 (m, 5H), 5.55 (dd, J=6.71, 2.14 Hz, 1H), 5.19-5.03 (m, 2H), 2.32-2.11 (m, 4H), 1.87-1.62 (m, 4H), 1.11 (s, 3H), 1.53-1.06 (m, 16H), 1.00 (s, 3H), 0.92 (s, 3H), 0.88 (s, 3H), 0.84 (d, J=6.71 Hz, 3H), 0.75 (s, 3H), 0.74 (d, J=6.71 Hz, 3H).

reactant | (1S,3aS,5aR,5bR,7aR,11aR,13aR,13bR)-benzyl 1-isopropyl-5a,5b,8,8,11a-pentamethyl-9-oxoicosahydro-1H-cyclopenta[a]chrysene-3a-carboxylate | 5.58 mmol, 3.05 g | C(C)(C)[C@@H]1CC[C@]2([C@H]1[C@H]1CCC3[C@]4(CCC(C([C@@H]4CC[C@]3([C@@]1(CC2)C)C)(C)C)=O)C)C(=O)OCC2=CC=CC=C2 | C37H54O3
reactant | KHMDS | 11.16 mmol, 22.31 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide | 6.14 mmol, 2.192 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | (1S,3aS,5aR,5bR,7aR,11aR,13aR,13bR)-benzyl 1-isopropyl-5a,5b,8,8,11a-pentamethyl-9-(trifluoromethylsulfonyloxy)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylate | C(C)(C)[C@@H]1CC[C@]2([C@H]1[C@H]1CCC3[C@]4(CC=C(C([C@@H]4CC[C@]3([C@@]1(CC2)C)C)(C)C)OS(=O)(=O)C(F)(F)F)C)C(=O)OCC2=CC=CC=C2 | C38H53F3O5S
